Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
observation after polypectomy
 
Major Surgical or Invasive Procedure:
EGD with polypectomies
 
History of Present Illness:
___ with DM2, CKD, HTN, adenoCA arising from gastric polyp s/p 
resection who is admitted for observation after gastric 
polypectomy due to risk of bleeding.

He presented for a planned EGD with polypectomy. He was found to 
have a gastric polyp in ___. He underwent polypectomy which was 
complicated by a GI bleed. He required ICU admission and 
emergent EGD to stop bleeding. Overall he did okay. 

He had EGD to evaluate on ___ which showed 
pedunculated/sessile polyps. He presented for a planned 
admission for EGD with polypectomy.

Currently, he feels well and denies all issues. He reports 
hunger. 

ROS: Per above. Otherwise negative.
 
Past Medical History:
-DM (diabetes mellitus), type 2 with renal complications  
-Chronic renal insufficiency, stage II (mild)    
-Vitamin D deficiency
-Colonic adenoma (sigmoid)  
-Adenocarcinoma from gastric polyp s/p removal c/b GI bleed
-Impotence ___ erectile dysfunction  
-History of prostate cancer, s/p radiation therapy
-Osteoarthrits of the left knee 
-Hepatitis C - no treatment, but liver was biopsied per patient
-Open angle glaucoma  
-Hypertension 
-Positive PPD 
-History of gallstones
-Cataracts bilaterally, with surgical removal in L eye. Patient 
states he has a L dilated pupil since the surgery
 
Social History:
___
Family History:
maternal grandmother - DM
mother - DM, died of cervical cancer
father - healthy as far as patient is aware
sister - deceased, from complications of DM
 
Physical Exam:
Admission:
99.1 140/76 71 20 100% RA 
___
No apparent distress
poor dentition, MMM
RR, nl rate, no murmur
CTAB
soft, nontender, nondistended, positive bowel sounds
wwp, 2+ ___ edema
no foley
CN grossly intact

Discharge:
AVSS
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, poor dentition
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
Abdomen: soft, mild epigastric tenderness, non-distended, bowel 
sounds present, no organomegaly  
Ext: bilateral edema
 
Pertinent Results:
Admission labs:
___ 04:57PM BLOOD WBC-7.0 RBC-4.71# Hgb-14.5# Hct-40.5# 
MCV-86 MCH-30.8 MCHC-35.8* RDW-14.4 Plt ___

Discharge labs:
___ 08:50AM BLOOD WBC-5.1 RBC-4.11* Hgb-12.8* Hct-35.5* 
MCV-86 MCH-31.1 MCHC-36.1* RDW-13.8 Plt ___

EGD: Normal mucosa in the esophagus. 1.5cm and 1cm cardia polyps 
in the stomach (polypectomy). 1cm gastric body polyp  
(polypectomy). 1cm fundus polyp in the stomach (polypectomy). 
The previous polypectomy site with the clip placed was 
identified. Normal mucosa was noted. No discrete residual polyp 
was seen. Otherwise normal EGD to third part of the duodenum.

 
Brief Hospital Course:
___ with gastric polyps admitted for observation after 
polypectomy.

# Gastric polyps:
# s/p polypectomies:
# Observation for GI bleed.

He was NPO p MN following the procedure. HCT in ___ was 40.5. He 
was given IVF overnight. AM hct was 35.5. His most recent 
outpatient hct were 35.4 and 36.2. It is likely this just 
represents dilution. Clinically, he had no evidence of bleed. He 
was seen by ERCP who was okay with discharge. Signs and symptoms 
of anemia/GI bleed were discussed with the patient and he will 
re-present if issues arise. He will be notified of biopsy 
results by GI. No anticoagulations, NSAIDs or aspirin.

His other medical issues were stable. He was resumed on his home 
medications upondischarge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Torsemide 20 mg PO DAILY 
2. Amlodipine 10 mg PO DAILY 
3. Lisinopril 20 mg PO DAILY 
4. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES BID 
5. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES HS 
6. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID 
7. Omeprazole 40 mg PO BID 
8. Tamsulosin 0.4 mg PO HS 
9. Ferrous Sulfate 325 mg PO BID 
10. cod liver oil 1,250-135 unit oral daily 

 
Discharge Medications:
1. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES BID 
2. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID 
3. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES HS 
4. Omeprazole 40 mg PO BID 
5. Tamsulosin 0.4 mg PO HS 
6. Amlodipine 10 mg PO DAILY 
7. cod liver oil 1,250-135 unit oral daily 
8. Ferrous Sulfate 325 mg PO BID 
9. Lisinopril 20 mg PO DAILY 
10. Torsemide 20 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
gastric polyps
s/p polypectomy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted for observation after an EGD with polypectomy. 
You had no evidence of bleeding overnight.

It is essential that you monitor your symptoms closely. If you 
develop lightheadedness, shortness of breath, chest pain, blood 
in your stools, black stools or other concerning symptoms, 
please contact your doctor or present to the ED immediately.

Please do not take any blood thinners, NSAIDs (example 
ibuprofen) or aspirin at least for the next 5 days.
 
Followup Instructions:
___